US04920117
4,5,5a,6-Tetrahydro-3H-isoxazolo[5,4,3-kl]acridine
In 100 ml glacial acetic acid was dissolved 4.75 g 4,5-dihydro-3H-isoxazolo[5,4,3-kl]acridine. To the mechanically stirred solution under nitrogen was added 2.84 g of sodium cyanoborohydride. The reaction was complete after 0.5 hour at room temperature. The reaction mixture was neutralized with excess aqueous sodium carbonate and extracted with dichloromethane (DCM). The DCM was dried over MgSO4, filtered and concentrated to a solid. The solid was purified by flash chromatography and recrystallized from 1:1 DCM/hexanes to yield 2.78 g of powder, m.p. 152°-154° C.

reactant | 4,5-dihydro-3H-isoxazolo[5,4,3-kl]acridine | 4.75 g | N=1OC=2CCCC3=NC=4C=CC=CC4C1C23 | C13H10N2O
reactant | sodium cyanoborohydride | 2.84 g | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4,5,5a,6-Tetrahydro-3H-isoxazolo[5,4,3-kl]acridine | 2.78 g | N=1OC=2CCCC3NC=4C=CC=CC4C1C23 | C13H12N2O
